US05227486
Preparation of 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole.
A mixture of 730 g (3.59 moles) of 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4,5]decane bromide, 275 g (4.05 moles) of pyrazole and 745 g (5.4 moles) of potassium carbonate in 3 1 of dimethylformamide is heated to 140° C. for 14 hours. The mixture is evaporated under vacuum, chloroform is added, the solution is washed with water, dried over sodium sulfate and evaporated under vacuum, and 650 g (94%) of 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole are obtained in liquid form.

reactant | 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4,5]decane bromide | 3.59 moles, 730 g | [Br-].N1=C(N=CC=C1)N1CC[N+]2(CCCC2)CC1
reactant | pyrazole | 4.05 moles, 275 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 5.4 moles, 745 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1N=CC=C1 | C15H22N6
